US06291679B1
A solution of 9.3 g (17.3 mmol) of benzothiophene-2-boronic acid trimeric anhydride in 100 cm3 of methanol and 400 cm3 of a 2N aqueous sodium carbonate solution are successively added to a solution of 22.36 g (47 mmol) of the levorotatory enantiomer of methyl (3aRS,4SR,7aRS)-2-benzyl-7-iodo-4-phenyl-1,2,3,4,5,7a-hexahydroisoindole-3a-carboxylate and of 6.03 g (5.2 mmol) of tetrakis(triphenylphosphine)palladium in 250 cm3 of 1,2-dimethoxyethane, the reaction mixture is then brought to reflux for two hours and stirring is maintained overnight at room temperature. After returning to a temperature in the region of 20° C., the reaction mixture is extracted with 800 cm3 of ethyl acetate and then the organic phase is washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure. The brown residue obtained is purified by flash chromatography on silica gel (230-400 mesh), elution being carried out with a cyclohexane/ethyl acetate (80/20 by volume) mixture. 11.04 g (50%) of the levorotatory enantiomer of methyl (3aRS,4SR,7aRS)-2-benzyl-4-phenyl-7-(2-benzothienyl)-1,2,3,4,5,7a-hexahydroisoindole-3a-carboxylate are thus obtained in the form of a yellow foam, the characteristics of which are as follows:

reactant | benzothiophene-2-boronic acid | 17.3 mmol, 9.3 g | S1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO2S
reactant | sodium carbonate | 2N | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl (3aRS,4SR,7aRS)-2-benzyl-7-iodo-4-phenyl-1,2,3,4,5,7a-hexahydroisoindole-3a-carboxylate | C(C1=CC=CC=C1)N1CC2C(=CCC(C2(C1)C(=O)OC)C1=CC=CC=C1)I | C23H24INO2
solvent | methanol | 100 cm3 | CO | CH4O
solvent | 1,2-dimethoxyethane | 250 cm3 | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 5.2 mmol, 6.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl (3aRS,4SR,7aRS)-2-benzyl-4-phenyl-7-(2-benzothienyl)-1,2,3,4,5,7a-hexahydroisoindole-3a-carboxylate | C(C1=CC=CC=C1)N1CC2C(=CCC(C2(C1)C(=O)OC)C1=CC=CC=C1)C=1SC2=C(C1)C=CC=C2 | C31H29NO2S
